US06046210
2-(4-(4-(3Cyanophenyl)benzoylamino)butyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline
1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.41 g, 2.14 mmol) was added to a solution of 2-(4-aminobutyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline (0.5 g, 2.14 mmol), 4-(3-cyanophenyl)benzoic acid (0.368 g, 2.14 mmol) and 1-hydroxybenzotriazole (0.1 g, 0.7 mmol) in dichloromethane (8 ml). The resultant mixture was shaken for 18 h. before saturated aqueous potassium carbonate (5 ml) was added and shaking continued 1 hr. The organic layer was chromatographed on silica gel using 10-100% ethyl acetate-hexane gradient elution to afford the title compound as a yellow gum (0.57 g, 61%).

reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.14 mmol, 0.41 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-(4-aminobutyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline | 2.14 mmol, 0.5 g | NCCCCN1CC2=CC(=CC=C2CC1)OC | C14H22N2O
reactant | 4-(3-cyanophenyl)benzoic acid | 2.14 mmol, 0.368 g | C(#N)C=1C=C(C=CC1)C1=CC=C(C(=O)O)C=C1 | C14H9NO2
reactant | 1-hydroxybenzotriazole | 0.7 mmol, 0.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | potassium carbonate | 5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2-(4-(4-(3Cyanophenyl)benzoylamino)butyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline | 0.57 g, 61% | C(#N)C=1C=C(C=CC1)C1=CC=C(C(=O)NCCCCN2CC3=CC(=CC=C3CC2)OC)C=C1 | C28H29N3O2
